US04349674
2-[Ethylamino(ethylimino)methylthio]-3-quinoxalinecarboxylic acid ethyl ester, hydrochloride
2-Chloro-3-quinoxalinecarboxylic acid, ethyl ester (7.100 g., 0.03 mole) and 3.967 g., (0.03 mole) of 1,3-diethylthiourea were dissolved in 150 ml. of acetone and boiled in an open flask for 1 hour. The reaction mixture was stirred at room temperature for 1 hour, then concentrated to a volume of 50 ml. After standing at room temperature overnight, the mixture was filtered and the solid residue washed with acetone and ether. Recrystallized from a mixture of methanol, acetone and ether it gave 7.182 g. product, m.p. 144.5°-145° C.

reactant | 2-Chloro-3-quinoxalinecarboxylic acid, ethyl ester | 0.03 mole, 7.100 g | ClC1=NC2=CC=CC=C2N=C1C(=O)OCC | C11H9ClN2O2
reactant | 1,3-diethylthiourea | 0.03 mole | C(C)NC(=S)NCC | C5H12N2S
solvent | acetone | CC(=O)C | C3H6O
product | 2-[Ethylamino(ethylimino)methylthio]-3-quinoxalinecarboxylic acid ethyl ester, hydrochloride | Cl.C(C)OC(=O)C=1C(=NC2=CC=CC=C2N1)SC(=NCC)NCC | InChI=1S/C16H20N4O2S.ClH/c1-4-17-16(18-5-2)23-14-13(15(21)22-6-3)19-11-9-7-8-10-12(11)20-14;/h7-10H,4-6H2,1-3H3,(H,17,18);1H
